US04291034
A solution of 1.3 g of sodium metal in 30 ml of ethanol is treated with 9 g of diethylmalonate and an ethanolic solution of 12.1 g of 3,4-dichlorobenzalacetone, heated under reflux for 15 min, cooled and concentrated to dryness in vacuo. The residue is treated with 400 ml of water containing 7 g of 80% potassium hydroxide pellets and heated under reflux for 2 hr. Insoluble material is removed and the filtrate is acidified with concentrated sulfuric acid, heated under reflux until carbon dioxide evolution ceases, cooled, filtered, washed with water and dried. Recrystallization from 2-propanol gives 5-(3,4-dichlorophenyl)-1,3-cyclohexanedione; mp 198°-200° C.

reactant | sodium | 1.3 g | [Na] | Na
reactant | diethylmalonate | 9 g | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | 3,4-dichlorobenzalacetone | 12.1 g | ClC=1C=C(C=CC(C)=O)C=CC1Cl | C10H8Cl2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-(3,4-dichlorophenyl)-1,3-cyclohexanedione | ClC=1C=C(C=CC1Cl)C1CC(CC(C1)=O)=O | C12H10Cl2O2
